US07482486B2
A solution of magnesium valproate was obtained in the following manner. To a magnetically stirred, clear, colorless solution of valproic acid (2.88 g; 0.02 mol; Sigma Aldrich Chemical Co.) in 20 mL of 2-propanol was added 10 mL (0.01 mol) of magnesium methoxide solution in methanol (Sigma Aldrich Chemical Co.). A clear, pale yellow solution was obtained. Acetonitrile was added to the alcohol solution in portions, and after 100 mL had been added, a white precipitate formed. The reaction mixture was cold to the touch. The slurry was stirred for 15 minutes. The product, magnesium valproate hydrate, was isolated by filtration, washed with fresh acetonitrile, and dried to constant weight. The product, magnesium valproate hydrate, was obtained in 70% yield as a white solid, which exhibited an elemental composition identical to that calculated for magnesium valproate hydrate. The product did not melt at temperatures as high as 300° C. The product was not hygroscopic or deliquescent and was stable during storage under ambient conditions. The theoretical valproate content (weight %) of magnesium valproate hydrate is 88.6%; the valproate content found by HPLC analysis was 88.5%.

reactant | valproic acid | 0.02 mol, 2.88 g | C(C(CCC)CCC)(=O)O | C8H16O2
reactant | magnesium methoxide | 0.01 mol, 10 mL | C[O-].[Mg+2].C[O-]
reactant | Acetonitrile | C(C)#N | C2H3N
solvent | 2-propanol | 20 mL | CC(C)O | C3H8O
solvent | methanol | CO | CH4O
product | magnesium valproate hydrate | O.C(C(CCC)CCC)(=O)[O-].[Mg+2].C(C(CCC)CCC)(=O)[O-] | InChI=1S/2C8H16O2.Mg.H2O/c2*1-3-5-7(6-4-2)8(9)10;;/h2*7H,3-6H2,1-2H3,(H,9,10);;1H2/q;;+2;/p-2
